US04234499
Synthesis of Cis-diammineplatinum(II) α-D-glucose-1-phosphate Complex
A 3.76-gram portion of disodium α-D-glucose-1-phosphate was dissolved in 33.3 ml of a 0.3 M solution of cis-[Pt(NH3)2 -(H2O)2 ](NO3)2. The resulting solution had an initial pH of 5.2. The solution was stoppered with a porous plug and then stirred for 90 days at room temperature, turning deep blue in color. During that period, water was periodically added to maintain the solution volume at 40 ml. At the end of the three month period, 60 ml of ethanol were added to the solution and a dark blue material was precipitated by placing the mixture in a freezer overnight. The supernatant was decanted, and the precipitate was washed with 70% ethanol, and then it was redissolved in 40 ml of water. The solution was filtered; and the blue material was reprecipitated by the addition of 50 ml ethanol to the solution. After overnight storage in a freezer, additional decanting, washing, and drying by the procedures described in Example 1, there were obtained 2.548 grams of the above-identified complex as a dark blue solid.

reactant | disodium α-D-glucose-1-phosphate | P(=O)([O-])([O-])O[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO.[Na+].[Na+]
reactant | water | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | α-D-glucose-1-phosphate | 2.548 grams | P(=O)(O)(O)O[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13O9P
